US05905079
A mixture of 3-(4-fluorophenoxy)-2-butanone (18.72 g) and N,N-dimethylformamide dimethylacetal (12.5 g) was heated under argon in an oil bath at 120° C. for 14 hours. The methanol produced in the reaction was removed under reduced pressure and the residual oil was precipitated with cold hexane and kept at 4° C. overnight to give 4-(4-fluorophenoxy)-1-(dimethylamino)-1-penten-3-one as an orange solid. Yield 19.97 g.

reactant | 3-(4-fluorophenoxy)-2-butanone | 18.72 g | FC1=CC=C(OC(C(C)=O)C)C=C1 | C10H11FO2
reactant | N,N-dimethylformamide dimethylacetal | 12.5 g | COC(N(C)C)OC | C5H13NO2
solvent | methanol | CO | CH4O
product | 4-(4-fluorophenoxy)-1-(dimethylamino)-1-penten-3-one | FC1=CC=C(OC(C(C=CN(C)C)=O)C)C=C1 | C13H16FNO2
